US08614206B2
To a solution of 1-methyl-4-nitro-1H-pyrazole (1.5 g, 11.8 mmol) and (Z)-cyclohept-4-enone (1.4 g, 13.0 mmol) in dry THF (30 mL) under nitrogen cooled to −78° C. was added dropwise a solution of lithium hexamethyldisilazide (1.0 M in THF, 30 mL, 29.5 mmol). The reaction mixture was allowed to warm to −40° C. and stirred for 90 min. Saturated aqueous ammonium chloride solution (30 mL) was added (dropwise initially) and the mixture was allowed to warm to room temperature and extracted with EtOAc (150 mL). The organic layer was washed with water (30 mL), washed with brine (20 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (20-25% EtOAc) gave (Z)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-4-enol as a tan oil (1.37 g, 49%). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 5.96-5.86 (m, 2H), 4.13 (s, 3H), 3.70 (s, 1H), 2.63-2.54 (m, 2H), 2.41-2.31 (m, 2H), 2.16-2.03 (m, 2H), 2.00-1.92 (m, 2H).

reactant | 1-methyl-4-nitro-1H-pyrazole | 11.8 mmol, 1.5 g | CN1N=CC(=C1)[N+](=O)[O-] | C4H5N3O2
reactant | (Z)-cyclohept-4-enone | 13.0 mmol, 1.4 g | C1(CC\C=C/CC1)=O | C7H10O
reactant | lithium hexamethyldisilazide | 29.5 mmol, 1.0 M, 30 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (Z)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-4-enol | 1.37 g, 49% | CN1N=CC(=C1C1(CC\C=C/CC1)O)[N+](=O)[O-] | C11H15N3O3
